* C:\Users\Gebruiker\Documents\GitHub\COPD_shirt\LTSpice\NE555.asc
XU1 0 N003 Frequency_OUT N001 N007 N003 N004 N001 NE555
R1 N004 N003 10k
R2 N001 N004 10k
C1 N003 0 3n
V1 N001 0 3.3
C2 N007 0 10n
XU2 0 N005 Frequency_OUT2 N002 N008 N005 N006 N002 NE555
R3 N006 N005 1000k
R4 N002 N006 10k
V2 N002 0 3.3
C4 N008 0 10n
C5 N005 0 0.5n
R6 N009 N005 50k
C6 N009 0 2.5n
.tran 0.1
.lib NE555.sub
.backanno
.end
